US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxybenzamide (Compound No. 50)
Using 5-chlorosalicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxybenzamide | Yield: 85.5% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)Cl)O)=O)(F)F | C15H8ClF6NO2
